US06673938B1
Preparation of 5-Methyl-5-trifluoromethylcyclohexane-1,3-dione (Compound H-B1066)
0.64 g of sodium were introduced into 40 ml of ethanol, and 3.23 ml of methyl acetoacetate and 4.9 g of isopropyl 4,4,4-trifluoro-3-methylbut-2-enoate were introduced, and the mixture was heated at the boil for 18 hours. After the mixture has been partitioned between dilute hydrochloric acid and ethyl acetate, the mixture is evaporated. The remaining unpurified methyl 2-methyl-4,6-dioxo-2-trifluoromethylcyclohexanecarboxylate is hydrolysed in a mixture of methanol and water at boiling point in the presence of 9.1 g of sodium hydroxide. The mixture is subsequently acidified with hydrochloric acid and extracted with fresh ethyl acetate. After recrystallization (ethyl acetate), pure 5-methyl-5-trifluoromethylcyclohexane-1,3-dione of melting point 150-152° C. is obtained.

reactant | sodium | 0.64 g | [Na] | Na
reactant | methyl acetoacetate | 3.23 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | isopropyl 4,4,4-trifluoro-3-methylbut-2-enoate | 4.9 g | FC(C(=CC(=O)OC(C)C)C)(F)F | C8H11F3O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-Methyl-5-trifluoromethylcyclohexane-1,3-dione | CC1(CC(CC(C1)=O)=O)C(F)(F)F | C8H9F3O2
